2195-11-17 07:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.1
F - [**2195-11-16**] 09:30 PM
   - transfused 2 U PRBC with appropriat Hct bump
   - Restarted insulin gtt in AM for sugars in the 300-400 range
   Allergies:
   Penicillins
   Unspecified [**Doctor First Name **]
   Tetanus
   Diphtheria Toxoid
   Tetanus shot in
   Lisinopril
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 12 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-11-17**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.1
C (98.7
   HR: 103 (103 - 133) bpm
   BP: 105/69(77) {89/50(62) - 125/74(85)} mmHg
   RR: 18 (13 - 28) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
           Total In:
                                                                  3,142 mL
                                                                  1,258 mL
   PO:
                                                                    600 mL
                                                                    500 mL
   TF:
   IVF:
                                                                    301 mL
                                                                    449 mL
   Blood products:
                                                                    441 mL
                                                                    309 mL
   Total out:
                                                                  1,300 mL
                                                                  1,180 mL
   Urine:
                                                                    525 mL
                                                                  1,180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,842 mL
                                                                     78 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   GEN: Well-appearing, no acute distress, mildly anxious, obese
   HEENT:, sclera grossly icteric, MM dry,
   CV: Tachycardic, reg rhythm, no M/G/R, radial pulses +2
   PULM: Lungs CTAB, no W/R/R
   ABD: Soft, mild TTP at LUQ and LLQ, obese, +BS, no masses palpated
   EXT: No C/C/ trace edema
   SKIN: Obvious jaundice.  No cyanosis, or gross dermatitis. No
   ecchymoses.
   Labs / Radiology
   548 K/uL
   6.4 g/dL
   335 mg/dL
   0.5 mg/dL
   23 mEq/L
   4.8 mEq/L
   26 mg/dL
   103 mEq/L
   137 mEq/L
   19.2 %
   14.6 K/uL
        [image002.jpg]
                            [**2195-11-16**]  06:54 PM
                            [**2195-11-17**]  12:28 AM
                            [**2195-11-17**]  04:17 AM
   WBC
   11.2
   12.7
   14.6
   Hct
   14.4
   17.0
   19.2
   Plt
   [**Telephone/Fax (3) 3684**]
   Cr
   0.7
   0.7
   0.5
   Glucose
   194
   180
   335
   Other labs: PT / PTT / INR:13.9/19.4/1.2, Alk Phos / T Bili:/7.4,
   LDH:1068 IU/L, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 DIABETES MELLITUS (DM), TYPE I
 .H/O IDIOPATHIC THROMBOCYTOPENIC PURPURA (ITP)
   This is a 33 year-old male with a history of ITP, autoimmune hemolytic
   anemia, and splenomegaly scheduled for splenectomy in [**Month (only) 3**] who
   presents with DKA and hemolytic anemia.
   .
   Plan:
   # Hemolytic anemia: Most likely [**1-31**] to recent immunizations tipping off
   autoimmune hemolysis.  He has had episodes of hemolytic anemia in the
   past, controlled with steroids. He has never had a transfusion of PRBCs
   but has Warm autoantibodies, making crossmatching very difficult.
   - Heme/Onc following along.
   - Hct checks Q8 hrs
   - Transfuse PRN to keep above 21
   - Monitor for transfusion reaction
   - IV solumedrol
   - Folate 5 mg daily
   - Surgery consult today for splenectomy when stable.
   .
   # DKA: Patient with generally good control [**First Name8 (NamePattern2) **] [**Last Name (un) 303**] records (A1C of
   7.8), but sugars very difficult to control in the 400s over the past 3
   days.
   - Restart gtt if glucoses rise above 200 consistantly.
   - [**Last Name (un) 303**] consult today
   .
   # Fever/elevated WBC: White count of 13 with 74 neutrophils and 2
   bands. Monospot negative on [**2195-11-10**].  Recent On going leukocytosis now
   in setting of steroids.
   - f/u blood and Urine Cx
   - Send parvovirus serologies.
   .
   # HTN: Patient currently normotensive.
   - Hold antihypertensives for now.
   .
   # Hyperlipidemia: Hold statin for now given marginal LFTs
   .
   # Hypothyroidism: Can continue levothyroxine now.
   .
   # FEN: Diabetic diet, replete lytes PRN
   .
   # Access: 2 PIV
   .
   # PPx: SQ heparin, PPI while on steriods
   .
   # Code:  Full code
   .
   # Dispo:  ICU until hemolysis resolves
   .
   # Comm:  with patient and wife, [**Name (NI) 3672**] ([**Telephone/Fax (1) 3673**]
   ICU Care
   Nutrition: diabetic diet
   Glycemic Control:  Insulin gtt
   Lines:
   18 Gauge - [**2195-11-16**] 07:08 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2195-11-17 10:44:00 Physician Attending Progress Note
Chief Complaint: Anemia, hemolysis, DKA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient started on insulin infusion and given fliuds for volume
   resuscitation. Anion gap improved this AM.
   Patient transfused - Hct up to 19 this morning. Total bili down
   slightly this AM.
   24 Hour Events:
 FEVER - 101.1
F - [**2195-11-16**] 09:30 PM
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Penicillins
   Unspecified [**Doctor First Name **]
   Tetanus
   Diphtheria Toxoid
   Tetanus shot in
   Lisinopril
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 13 units/hour
   Other ICU medications:
   Other medications:
   Prednisone, foilc acid, heparin sc
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Endocrine: Hyperglycemia
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2195-11-17**] 10:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 36.5
C (97.7
   HR: 87 (87 - 133) bpm
   BP: 107/62(73) {89/50(62) - 125/74(85)} mmHg
   RR: 22 (12 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
           Total In:
                                                                  3,142 mL
                                                                  1,326 mL
   PO:
                                                                    600 mL
                                                                    500 mL
   TF:
   IVF:
                                                                    301 mL
                                                                    517 mL
   Blood products:
                                                                    441 mL
                                                                    309 mL
   Total out:
                                                                  1,300 mL
                                                                  1,330 mL
   Urine:
                                                                    525 mL
                                                                  1,330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,842 mL
                                                                     -4 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Conjunctiva pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , Diminished: throughout chest, No(t)
   Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place and time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   6.4 g/dL
   548 K/uL
   335 mg/dL
   0.5 mg/dL
   23 mEq/L
   4.8 mEq/L
   26 mg/dL
   103 mEq/L
   137 mEq/L
   19.2 %
   14.6 K/uL
        [image002.jpg]
                            [**2195-11-16**]  06:54 PM
                            [**2195-11-17**]  12:28 AM
                            [**2195-11-17**]  04:17 AM
   WBC
   11.2
   12.7
   14.6
   Hct
   14.4
   17.0
   19.2
   Plt
   [**Telephone/Fax (3) 3684**]
   Cr
   0.7
   0.7
   0.5
   Glucose
   194
   180
   335
   Other labs: PT / PTT / INR:13.9/19.4/1.2, Alk Phos / T Bili:/7.4,
   LDH:1068 IU/L, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Imaging: CXR: normal heart. No infiltrates or effusions.
   Assessment and Plan
 DIABETES MELLITUS (DM), TYPE I
 .H/O IDIOPATHIC THROMBOCYTOPENIC PURPURA (ITP)
   ANEMIA
   HEMOLYSIS
   ACIDOSIS-DKA
   Hct responding to transfusions. Patient receiving steroids. Plan for
   splenectomy this week.
   Acidosis has resolved, but glucose up this AM. Insulin infusion
   adjusted.
   Start GI prophylaxis on steroids.
   ICU Care
   Nutrition: Oral
   Glycemic Control:  Insulin infusion
   Lines:
   18 Gauge - [**2195-11-16**] 07:08 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 25 minutes

2195-11-18 12:08:00 Physician Attending Progress Note
Chief Complaint: Hemolytic anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Transfused one unit of PRBC's overnight. Patient complaining of mild
   fatigue and abdominal discomfort.
   Patient complaining of puffiness.
   24 Hour Events:
                                    History obtained from Patient
   Allergies:
   Penicillins
   Unspecified [**Doctor First Name **]
   Tetanus
   Diphtheria Toxoid
   Tetanus shot in
   Lisinopril
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 11 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2195-11-17**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2195-11-17**] 10:20 PM
   Other medications:
   Methylprednisolone
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-11-18**] 12:07 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 105 (95 - 127) bpm
   BP: 142/89(100) {108/71(81) - 142/89(100)} mmHg
   RR: 17 (8 - 32) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
             Total In:
                                                                  3,121 mL
                                                                    697 mL
   PO:
                                                                  1,220 mL
             TF:
   IVF:
                                                                    868 mL
                                                                    697 mL
   Blood products:
                                                                  1,034 mL
   Total out:
                                                                  2,100 mL
                                                                    965 mL
   Urine:
                                                                  2,100 mL
                                                                    965 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,021 mL
                                                                   -268 mL
   Respiratory support
   SpO2: 99%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Loud, No(t) Widely split , No(t) Fixed),
   No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, No(t)
   Distended, Tender: Diffuse, mild, Obese
   Extremities: Right: Trace pitting edema, Left: Trace, No(t) Cyanosis,
   No(t) Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   7.2 g/dL
   619 K/uL
   335 mg/dL
   0.5 mg/dL
   23 mEq/L
   4.8 mEq/L
   26 mg/dL
   103 mEq/L
   137 mEq/L
   20.1 %
   20.4 K/uL
        [image002.jpg]
                            [**2195-11-16**]  06:54 PM
                            [**2195-11-17**]  12:28 AM
                            [**2195-11-17**]  04:17 AM
                            [**2195-11-17**]  05:35 PM
                            [**2195-11-18**]  01:26 AM
   WBC
   11.2
   12.7
   14.6
   19.7
   20.4
   Hct
   14.4
   17.0
   19.2
   19.8
   20.1
   Plt
   [**Telephone/Fax (3) 3730**]13
   619
   Cr
   0.7
   0.7
   0.5
   Glucose
   194
   180
   335
   Other labs: PT / PTT / INR:13.9/19.4/1.2, Alk Phos / T Bili:/7.4,
   LDH:1068 IU/L, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 DIABETES MELLITUS (DM), TYPE I
 .H/O IDIOPATHIC THROMBOCYTOPENIC PURPURA (ITP)
   HEMOLYTIC ANEMIA
   Patient's hct relatively stable at 20; not bumping with transfusions.
   Has developed non-pitting edema on steroids. BUN/Creat ratio is
   elevated consistent with intravascular volume deficit and patient is
   thirsty.
   Continue to support his hemodynamics. Awaiting decision re:
   splenectomy.
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Insulin infusion
   Lines:
   18 Gauge - [**2195-11-16**] 07:08 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 25 minutes

2195-11-19 07:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2195-11-18**] 03:50 PM
   - Per Heme and Surgery, to get splenectomy tomorrow. Ordered 2u PRBCs,
   100gm IVIG, 6u PRBCS typed and crossed, changed steroids to PO
   prednisone, NPO after midnight
   -[**First Name8 (NamePattern2) 54**] [**Last Name (un) 303**], cont insulin gtt
   - Placed PICC line
   - 5p Hct 16 (from 21), ordered 2 uPRBCs
   Allergies:
   Penicillins
   Unspecified [**Doctor First Name **]
   Tetanus
   Diphtheria Toxoid
   Tetanus shot in
   Lisinopril
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 10 units/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2195-11-18**] 08:04 PM
   Heparin Sodium (Prophylaxis) - [**2195-11-18**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-11-19**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.8
C (98.2
   HR: 108 (101 - 127) bpm
   BP: 144/84(97) {109/60(72) - 144/89(100)} mmHg
   RR: 20 (13 - 28) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
           Total In:
                                                                  2,020 mL
                                                                    979 mL
   PO:
                                                                    600 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    973 mL
                                                                    147 mL
   Blood products:
                                                                    446 mL
                                                                    592 mL
   Total out:
                                                                  1,630 mL
                                                                    605 mL
   Urine:
                                                                  1,630 mL
                                                                    605 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    390 mL
                                                                    374 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   GEN: Well-appearing, no acute distress, mildly anxious, obese
   HEENT: sclera grossly icteric, MMM,
   CV: Tachycardic, reg rhythm, no M/G/R, radial pulses +2
   PULM: Lungs CTAB, no W/R/R
   ABD: Soft, mild TTP at LUQ and LLQ, obese, +BS, no rebound or guarding
   EXT: No C/C/ trace edema
   SKIN: Obvious jaundice.  No cyanosis, or gross dermatitis. No
   ecchymoses.
   Labs / Radiology
   488 K/uL
   6.8 g/dL
   112 mg/dL
   0.7 mg/dL
   24 mEq/L
   4.1 mEq/L
   29 mg/dL
   105 mEq/L
   137 mEq/L
   18.8 %
   20.7 K/uL
        [image002.jpg]
                            [**2195-11-16**]  06:54 PM
                            [**2195-11-17**]  12:28 AM
                            [**2195-11-17**]  04:17 AM
                            [**2195-11-17**]  05:35 PM
                            [**2195-11-18**]  01:26 AM
                            [**2195-11-18**]  04:30 PM
                            [**2195-11-19**]  01:55 AM
   WBC
   11.2
   12.7
   14.6
   19.7
   20.4
   18.5
   20.7
   Hct
   14.4
   17.0
   19.2
   19.8
   20.1
   16.8
   18.8
   Plt
   [**Telephone/Fax (3) 3759**]
   488
   Cr
   0.7
   0.7
   0.5
   0.7
   Glucose
   194
   180
   335
   112
   Other labs: PT / PTT / INR:13.6/21.3/1.2, ALT / AST:21/21, Alk Phos / T
   Bili:80/9.2, Differential-Neuts:83.0 %, Band:2.0 %, Lymph:9.0 %,
   Mono:4.0 %, Eos:0.0 %, LDH:935 IU/L, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL,
   PO4:2.8 mg/dL
   Assessment and Plan
 DIABETES MELLITUS (DM), TYPE I
 .H/O IDIOPATHIC THROMBOCYTOPENIC PURPURA (ITP)
   This is a 33 year-old male with a history of DM type 1, ITP, autoimmune
   hemolytic anemia, and splenomegaly scheduled for splenectomy in
   [**Month (only) 3**] who presents with DKA and hemolytic anemia.
   .
   Plan:
   # Hemolytic anemia: Most likely [**1-31**] to recent immunizations tipping off
   autoimmune hemolysis.  He has had episodes of hemolytic anemia in the
   past, controlled with steroids and IVIG. He has Warm autoantibodies,
   making crossmatching very difficult. So far, he has been given 3 units
   pRBCs in ICU.
   - Heme/Onc following along. Appreciate recs
   - Hct checks Q8 hrs
   - Transfuse PRN to keep above 20
   - Monitor for transfusion reaction
   - IV solumedrol at 125 Q 24hrs
   - Folate 5 mg daily
   - Surgery today for splenectomy
   .
   # DKA: Patient with generally good control [**First Name8 (NamePattern2) **] [**Last Name (un) 303**] records (A1C of
   7.8), but sugars very difficult to control in the 400s last night and
   again this am.
   - Cont Insulin gtt for now
   - F/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 303**] recs
   .
   # Fever/elevated WBC: White count rising to 20.4 today likely [**1-31**]
   steroids.
   - f/u blood and Urine Cx
   .
   # HTN: Patient currently normotensive.
   - Hold antihypertensives for now.
   .
   # Hyperlipidemia: Hold statin for now given marginal LFTs
   .
   # Hypothyroidism: Can continue levothyroxine now.
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin infusion
   Lines:
   18 Gauge - [**2195-11-16**] 07:08 PM
   PICC Line - [**2195-11-18**] 03:50 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition: ICU

2195-11-20 07:48:00 Physician Resident Progress Note
Chief Complaint: Hemolytic anemia
   24 Hour Events:
 OR SENT - At [**2195-11-19**] 12:00 PM
 OR RECEIVED - At [**2195-11-19**] 05:11 PM
 ARTERIAL LINE - START [**2195-11-19**] 05:55 PM
 MULTI LUMEN - START [**2195-11-19**] 05:55 PM
   - Splenectomy yesterday went well and patient returned extubated.
   - Transfused 3 U intra-op with post-op Hct of 28
   - LUQ bulb suction, R IJ and NGT placed.
   - Post-op pain control with Dilaudid PCA
   - Hct continues to trend down, will transfuse for <21 or rapid drop.
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Unspecified [**Doctor First Name **]
   Tetanus
   Diphtheria Toxoid
   Tetanus shot in
   Lisinopril
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 4 units/hour
   Other ICU medications:
   Morphine Sulfate - [**2195-11-19**] 11:53 AM
   Pantoprazole (Protonix) - [**2195-11-19**] 07:35 PM
   Other medications:
   Changes to medical and family history:none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Nutritional Support: NPO
   Respiratory: No(t) Cough, Dyspnea
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis
   Musculoskeletal: No(t) Joint pain
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Neurologic: No(t) Headache
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious
   Flowsheet Data as of  [**2195-11-20**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 110 (97 - 119) bpm
   BP: 134/76(95) {126/68(88) - 153/88(109)} mmHg
   RR: 17 (12 - 31) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
             Total In:
                                                                  4,235 mL
                                                                  1,941 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                  1,641 mL
                                                                  1,941 mL
   Blood products:
                                                                  2,354 mL
   Total out:
                                                                  2,615 mL
                                                                    363 mL
   Urine:
                                                                  1,365 mL
                                                                    258 mL
   NG:
   Stool:
   Drains:
                                                                    150 mL
                                                                    105 mL
   Balance:
                                                                  1,620 mL
                                                                  1,578 mL
   Respiratory support
   O2 Delivery Device: Medium conc mask
   SpO2: 96%
   ABG: 7.29/50/348/25/-2
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Tender: , Obese, midline
   incision with minimal oozing into dressing. LUQ drain w/
   sero-sanguinous
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   221 K/uL
   8.7 g/dL
   100 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.1 mEq/L
   23 mg/dL
   110 mEq/L
   141 mEq/L
   24.5 %
   31.9 K/uL
        [image002.jpg]
                            [**2195-11-18**]  01:26 AM
                            [**2195-11-18**]  04:30 PM
                            [**2195-11-19**]  01:55 AM
                            [**2195-11-19**]  07:49 AM
                            [**2195-11-19**]  02:03 PM
                            [**2195-11-19**]  03:07 PM
                            [**2195-11-19**]  04:44 PM
                            [**2195-11-19**]  09:03 PM
                            [**2195-11-20**]  12:52 AM
                            [**2195-11-20**]  05:01 AM
   WBC
   20.4
   18.5
   20.7
   20.5
   38.2
   36.9
   33.0
   31.9
   Hct
   20.1
   16.8
   18.8
   16.6
   20
   28
   27.1
   25.9
   24.4
   24.5
   Plt
   [**Telephone/Fax (3) 3787**]29
   [**Telephone/Fax (2) 3788**]21
   Cr
   0.7
   0.7
   0.7
   0.7
   0.8
   TCO2
   27
   25
   Glucose
   112
   152
   84
   101
   93
   67
   100
   Other labs: PT / PTT / INR:13.9/22.1/1.2, ALT / AST:21/21, Alk Phos / T
   Bili:80/9.2, Differential-Neuts:83.0 %, Band:2.0 %, Lymph:9.0 %,
   Mono:4.0 %, Eos:0.0 %, Lactic Acid:2.1 mmol/L, LDH:935 IU/L, Ca++:7.4
   mg/dL, Mg++:1.8 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 DIABETES MELLITUS (DM), TYPE I
 .H/O IDIOPATHIC THROMBOCYTOPENIC PURPURA (ITP)
   This is a 33 year-old male with a history of DM type 1, ITP, autoimmune
   hemolytic anemia, and splenomegaly who presented with DKA and hemolytic
   anemia. POD #1 S/P splenectomy
   .
   Plan:
   # Hemolytic anemia: Most likely [**1-31**] to recent immunizations tipping off
   autoimmune hemolysis.  He has had episodes of hemolytic anemia in the
   past, controlled with steroids and IVIG. He has Warm autoantibodies,
   making crossmatching very difficult. Hct stable at 24 at this time.
   Splenectomy was uneventful and 3uPRBCs were given intra-op.
   - Heme/Onc following along. Appreciate recs- will discuss ongoing need
   for steroids and dosing today
   - Hct checks Q6 hrs
   - Transfuse PRN to keep above 21
   - Monitor for transfusion reaction
   - Folate 5 mg daily
   - Surgery following s/p splenectomy
   .
   # DKA: Patient with generally good control [**First Name8 (NamePattern2) **] [**Last Name (un) 303**] records (A1C of
   7.8). Sugars overnight 80
s-low 100
s on 4u/hr Insulin gtt, D5W at
   100/hr
   - Will d/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 303**] possibly changing back to insulin pump or SC insulin
   today. Pt cannot be transferred to floor on insulin gtt
   .
   # Fever/elevated WBC: White count 38 post op now down to 31..
   - f/u blood and Urine Cx
   -Trend WBC, fever curve
   .
   # HTN: Patient currently normotensive.
   - Hold antihypertensives for now.
   .
   # Hyperlipidemia: Hold statin for now given marginal LFTs
   .
   # Hypothyroidism: Can continue levothyroxine now.
   ICU Care
   Nutrition: NPO for now with NGT to suction
   Glycemic Control:  Insulin infusion
   Lines:
   18 Gauge - [**2195-11-16**] 07:08 PM
   PICC Line - [**2195-11-18**] 03:50 PM
   20 Gauge - [**2195-11-19**] 10:30 AM
   Arterial Line - [**2195-11-19**] 05:55 PM
   Multi Lumen - [**2195-11-19**] 05:55 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU- not eligible for transfer to floor until off insulin
   gtt

2195-11-20 12:27:00 Physician Attending Progress Note
Chief Complaint: Hemolytic anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient had splenectomy yesterday. Hct stable post op. Hemodynamically
   stable.
   24 Hour Events:
 OR SENT - At [**2195-11-19**] 12:00 PM
 OR RECEIVED - At [**2195-11-19**] 05:11 PM
 ARTERIAL LINE - START [**2195-11-19**] 05:55 PM
 MULTI LUMEN - START [**2195-11-19**] 05:55 PM
   Allergies:
   Penicillins
   Unspecified [**Doctor First Name **]
   Tetanus
   Diphtheria Toxoid
   Tetanus shot in
   Lisinopril
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 5.5 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2195-11-19**] 07:35 PM
   Heparin Sodium (Prophylaxis) - [**2195-11-20**] 08:30 AM
   Other medications:
   Synthroid, protonix, dilaudid
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-11-20**] 12:27 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 114 (108 - 119) bpm
   BP: 138/77(97) {126/68(88) - 153/88(109)} mmHg
   RR: 19 (12 - 28) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
             Total In:
                                                                  4,235 mL
                                                                  3,126 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                  1,641 mL
                                                                  3,126 mL
   Blood products:
                                                                  2,354 mL
   Total out:
                                                                  2,615 mL
                                                                    655 mL
   Urine:
                                                                  1,365 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
                                                                    150 mL
                                                                    105 mL
   Balance:
                                                                  1,620 mL
                                                                  2,471 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.29/50/348/25/-2
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, NG
   tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, No(t) Bowel sounds present,
   Distended, Tender: Mild, diffuse, Obese
   Extremities: Right: Absent edema, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   221 K/uL
   100 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.1 mEq/L
   23 mg/dL
   110 mEq/L
   141 mEq/L
   24.2 %
   31.9 K/uL
        [image002.jpg]
                            [**2195-11-18**]  04:30 PM
                            [**2195-11-19**]  01:55 AM
                            [**2195-11-19**]  07:49 AM
                            [**2195-11-19**]  02:03 PM
                            [**2195-11-19**]  03:07 PM
                            [**2195-11-19**]  04:44 PM
                            [**2195-11-19**]  09:03 PM
                            [**2195-11-20**]  12:52 AM
                            [**2195-11-20**]  05:01 AM
                            [**2195-11-20**]  10:11 AM
   WBC
   18.5
   20.7
   20.5
   38.2
   36.9
   33.0
   31.9
   Hct
   16.8
   18.8
   16.6
   20
   28
   27.1
   25.9
   24.4
   24.5
   24.2
   Plt
   655
   488
   429
   [**Telephone/Fax (3) **]
   221
   Cr
   0.7
   0.7
   0.7
   0.7
   0.8
   TCO2
   27
   25
   Glucose
   112
   152
   84
   101
   93
   67
   100
   Other labs: PT / PTT / INR:13.9/22.1/1.2, ALT / AST:21/21, Alk Phos / T
   Bili:80/9.2, Differential-Neuts:83.0 %, Band:2.0 %, Lymph:9.0 %,
   Mono:4.0 %, Eos:0.0 %, Lactic Acid:2.1 mmol/L, LDH:935 IU/L, Ca++:7.4
   mg/dL, Mg++:1.8 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 DIABETES MELLITUS (DM), TYPE I
 .H/O IDIOPATHIC THROMBOCYTOPENIC PURPURA (ITP)
   HEMOLYSIS
   Patient doing well post-op. Hct stable. On IV insulin now; will
   consider switching to sc insulin later today.
   Hemodynamically stable. Oxygenation good.
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Insulin infusion
   Lines:
   18 Gauge - [**2195-11-16**] 07:08 PM
   PICC Line - [**2195-11-18**] 03:50 PM
   20 Gauge - [**2195-11-19**] 10:30 AM
   Arterial Line - [**2195-11-19**] 05:55 PM
   Multi Lumen - [**2195-11-19**] 05:55 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 25

2195-11-21 07:44:00 Physician Resident Progress Note
Chief Complaint: hemolytic anemia
   24 Hour Events:
   - Mild Right Hand Swelling during the day
   - Increased dilaudid PCA dose
   - Would not be seen by [**Last Name (un) 303**] while pt was still NPO
   - Trended Hct overnight 24->26->22.5, discussed with surgery
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Unspecified [**Doctor First Name **]
   Tetanus
   Diphtheria Toxoid
   Tetanus shot in
   Lisinopril
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 6 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2195-11-20**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2195-11-20**] 08:00 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: Dry mouth, OG / NG tube, nose pain from NGT
   Cardiovascular: No(t) Chest pain
   Nutritional Support: NPO
   Respiratory: DOE
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis
   Integumentary (skin): No(t) Rash
   Neurologic: No(t) Headache
   Psychiatric / Sleep: No(t) Agitated, No(t) Delirious
   Flowsheet Data as of  [**2195-11-21**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.7
C (98
   HR: 126 (99 - 126) bpm
   BP: 155/96(114) {135/76(97) - 155/96(114)} mmHg
   RR: 20 (14 - 25) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
             Total In:
                                                                  6,209 mL
                                                                  1,303 mL
   PO:
             TF:
   IVF:
                                                                  6,209 mL
                                                                  1,303 mL
   Blood products:
   Total out:
                                                                  1,200 mL
                                                                    365 mL
   Urine:
                                                                    940 mL
                                                                    365 mL
   NG:
                                                                     65 mL
   Stool:
   Drains:
                                                                    195 mL
   Balance:
                                                                  5,009 mL
                                                                    938 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, No(t) Bowel sounds present, Obese, surgical dressings
   intact over midline incision. LUQ drain with serosanguinous
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   212 K/uL
   7.2 g/dL
   253 mg/dL
   0.5 mg/dL
   24 mEq/L
   4.5 mEq/L
   16 mg/dL
   105 mEq/L
   138 mEq/L
   20.9 %
   26.0 K/uL
        [image002.jpg]
                            [**2195-11-19**]  02:03 PM
                            [**2195-11-19**]  03:07 PM
                            [**2195-11-19**]  04:44 PM
                            [**2195-11-19**]  09:03 PM
                            [**2195-11-20**]  12:52 AM
                            [**2195-11-20**]  05:01 AM
                            [**2195-11-20**]  10:11 AM
                            [**2195-11-20**]  04:31 PM
                            [**2195-11-20**]  10:41 PM
                            [**2195-11-21**]  04:55 AM
   WBC
   38.2
   36.9
   33.0
   31.9
   26.0
   Hct
   20
   28
   27.1
   25.9
   24.4
   24.5
   24.2
   26.0
   22.5
   20.9
   Plt
   [**Telephone/Fax (3) 3788**]21
   212
   Cr
   0.7
   0.7
   0.8
   0.5
   TCO2
   27
   25
   Glucose
   84
   101
   93
   67
   100
   253
   Other labs: PT / PTT / INR:12.5/24.7/1.1, ALT / AST:29/28, Alk Phos / T
   Bili:66/3.3, Amylase / Lipase:15/16, Differential-Neuts:83.0 %,
   Band:2.0 %, Lymph:9.0 %, Mono:4.0 %, Eos:0.0 %, Lactic Acid:2.1 mmol/L,
   LDH:703 IU/L, Ca++:7.4 mg/dL, Mg++:2.2 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 DIABETES MELLITUS (DM), TYPE I
 .H/O IDIOPATHIC THROMBOCYTOPENIC PURPURA (ITP)
   This is a 33 year-old male with a history of DM type 1, ITP, autoimmune
   hemolytic anemia, and splenomegaly who presented with DKA and hemolytic
   anemia. POD #2 S/P splenectomy
   .
   Plan:
   # Hemolytic anemia: Most likely [**1-31**] to recent immunizations tipping off
   autoimmune hemolysis.  He has had episodes of hemolytic anemia in the
   past, controlled with steroids and IVIG. He has Warm autoantibodies,
   making crossmatching very difficult. Hct continues to trend down to 20
   this am. POD #2 s/p
   - Heme/Onc following along. Appreciate recs.
   -No longer on steroids
   -Will transfuse with PRBCsx2 with lasix between and after 2 units
   today.
   - Hct checks Q6 hrs
   - Monitor for transfusion reaction
   - Folate 5 mg daily
   - Surgery following s/p splenectomy
 needs to do first post-op
   dressing change
   .
   # DKA: Patient with generally good control [**First Name8 (NamePattern2) **] [**Last Name (un) 303**] records (A1C of
   7.8). Sugars overnight 80
s-300
s on 6u/hr Insulin gtt
   - Will d/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 303**] possibly changing back to insulin pump or SC insulin
   today. Pt cannot be transferred to floor on insulin gtt
   .
   # Fever/elevated WBC: White count 38 post op now down to 26. Remains
   afebrile.
   - f/u blood and Urine Cx
   -Trend WBC, fever curve
   .
   # HTN: Patient currently hypertensive with Metoprolol 5 IV q 6. Will
   restart home diovan today.
   .
   # Hyperlipidemia: Hold statin for now given marginal LFTs
   .
   # Hypothyroidism: Can continue levothyroxine now- will consider
   changing back to PO
   ICU Care
   Nutrition: Per surgery, will start on Clears today, D/C NGT.
   Glycemic Control:  Insulin infusion
   Lines:
   PICC Line - [**2195-11-18**] 03:50 PM
   20 Gauge - [**2195-11-19**] 10:30 AM
   Arterial Line - [**2195-11-19**] 05:55 PM
   Multi Lumen - [**2195-11-19**] 05:55 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU pending transition to insulin pump or SC

2195-11-22 07:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -[**First Name8 (NamePattern2) 54**] [**Last Name (un) **] recs- given 50 Lantus in evening. Continued on gtt
   overnight then will transition to ISS in am
   -Started on Clears, d/c'd NGT
   -Surgery to do first dressing change in am
   -Cont dilaudid pump
   -Pt ambulated during afternoon
   - Changed folic acid to PO and started Valsartan at home dose for HTN
   -Transfused 2units with lasix between bags for Hct 20 in am with bump
   to 25. Rpt at 10p 23. Did not transfuse again.
   Allergies:
   Penicillins
   Unspecified [**Doctor First Name **]
   Tetanus
   Diphtheria Toxoid
   Tetanus shot in
   Lisinopril
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Metoprolol - [**2195-11-21**] 12:00 PM
   Furosemide (Lasix) - [**2195-11-21**] 02:30 PM
   Pantoprazole (Protonix) - [**2195-11-21**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2195-11-21**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-11-22**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.8
C (98.2
   HR: 104 (98 - 117) bpm
   BP: 145/77(99) {142/73(96) - 174/101(123)} mmHg
   RR: 13 (13 - 25) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
             Total In:
                                                                  5,243 mL
                                                                  1,584 mL
   PO:
                                                                    200 mL
                                                                    400 mL
   TF:
   IVF:
                                                                  4,293 mL
                                                                  1,184 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  2,760 mL
                                                                    830 mL
   Urine:
                                                                  2,725 mL
                                                                    830 mL
   NG:
   Stool:
   Drains:
                                                                     35 mL
   Balance:
                                                                  2,483 mL
                                                                    754 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///29/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   272 K/uL
   8.0 g/dL
   71 mg/dL
   0.5 mg/dL
   29 mEq/L
   3.6 mEq/L
   13 mg/dL
   103 mEq/L
   140 mEq/L
   22.3 %
   26.0 K/uL
        [image002.jpg]
                            [**2195-11-19**]  09:03 PM
                            [**2195-11-20**]  12:52 AM
                            [**2195-11-20**]  05:01 AM
                            [**2195-11-20**]  10:11 AM
                            [**2195-11-20**]  04:31 PM
                            [**2195-11-20**]  10:41 PM
                            [**2195-11-21**]  04:55 AM
                            [**2195-11-21**]  02:29 PM
                            [**2195-11-21**]  10:06 PM
                            [**2195-11-22**]  04:18 AM
   WBC
   36.9
   33.0
   31.9
   26.0
   Hct
   25.9
   24.4
   24.5
   24.2
   26.0
   22.5
   20.9
   25.5
   23.7
   22.3
   Plt
   233
   229
   221
   212
   272
   Cr
   0.7
   0.8
   0.5
   0.5
   Glucose
   67
   100
   253
   71
   Other labs: PT / PTT / INR:13.0/23.8/1.1, ALT / AST:29/28, Alk Phos / T
   Bili:66/3.3, Amylase / Lipase:15/16, Differential-Neuts:83.0 %,
   Band:2.0 %, Lymph:9.0 %, Mono:4.0 %, Eos:0.0 %, Lactic Acid:2.1 mmol/L,
   LDH:703 IU/L, Ca++:7.6 mg/dL, Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 SPLENECTOMY
 INEFFECTIVE COPING
 DIABETES MELLITUS (DM), TYPE I
 .H/O IDIOPATHIC THROMBOCYTOPENIC PURPURA (ITP)
   This is a 33 year-old male with a history of DM type 1, ITP, autoimmune
   hemolytic anemia, and splenomegaly who presented with DKA and hemolytic
   anemia. POD #2 S/P splenectomy
   .
   Plan:
   # Hemolytic anemia: Most likely [**1-31**] to recent immunizations tipping off
   autoimmune hemolysis.  He has had episodes of hemolytic anemia in the
   past, controlled with steroids and IVIG. He has Warm autoantibodies,
   making crossmatching very difficult. Hct continues to trend down to 20
   this am. POD #2 s/p
   - Heme/Onc following along. Appreciate recs.
   -No longer on steroids
   -Will transfuse with PRBCsx2 with lasix between and after 2 units
   today.
   - Hct checks Q6 hrs
   - Monitor for transfusion reaction
   - Folate 5 mg daily
   - Surgery following s/p splenectomy
 needs to do first post-op
   dressing change
   .
   # DKA: Patient with generally good control [**First Name8 (NamePattern2) **] [**Last Name (un) 303**] records (A1C of
   7.8). Sugars overnight 80
s-300
s on 6u/hr Insulin gtt
   - Will d/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 303**] possibly changing back to insulin pump or SC insulin
   today. Pt cannot be transferred to floor on insulin gtt
   .
   # Fever/elevated WBC: White count 38 post op now down to 26. Remains
   afebrile.
   - f/u blood and Urine Cx
   -Trend WBC, fever curve
   .
   # HTN: Patient currently hypertensive with Metoprolol 5 IV q 6. Will
   restart home diovan today.
   .
   # Hyperlipidemia: Hold statin for now given marginal LFTs
   .
   # Hypothyroidism: Can continue levothyroxine now- will consider
   changing back to PO
   ICU Care
   Nutrition: Clears
   Glycemic Control:  SubQ insulin
   Lines:
   PICC Line - [**2195-11-18**] 03:50 PM
   20 Gauge - [**2195-11-19**] 10:30 AM
   Arterial Line - [**2195-11-19**] 05:55 PM
   Multi Lumen - [**2195-11-19**] 05:55 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor